US04284426
To a mixture of 8.0 g (0.034 mol) of ethyl, 2-chloro-4-isopropyl-5-thiazolecarboxylate and 20 ml of ethanol was added 1.3 g (0.034 mol) of sodium borohydride in 10 minutes. The reaction mixture was stirred at room temperature for 30 minutes and concentrated under reduced pressure. The residue was chromatographed on 250 g of silica gel using ether petroleum ether (1:9, v/v) as eluant. The first fraction (2.2 g) was recovered starting material. The second fraction (3.4 g) was Kugelrohr distilled at 0.5 mm (pot temperature 95° C.) go give 2.7 g (40%) of 2-chloro-4-isopropyl-5-thiazolemethanol as a colorless liquid, nD25 1.5425.

reactant | 2-chloro-4-isopropyl-5-thiazolecarboxylate | ClC=1SC(=C(N1)C(C)C)C(=O)[O-]
reactant | sodium borohydride | 0.034 mol, 1.3 g | [BH4-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-chloro-4-isopropyl-5-thiazolemethanol | 2.7 g, 40% | ClC=1SC(=C(N1)C(C)C)CO | C7H10ClNOS
